US06846835B2
Synthesis of t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-((acetyloxy)methyl)phenyl)ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate
To a solution of 42 mg of t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-(hydroxymethyl)phenyl)-ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate in 2 ml of chloroform, 0.015 ml of triethylamine, 0.01 ml of acetic anhydride and 2 mg of dimethylaminopyridine were added successively, followed by an hour's stirring at room temperature. The reaction liquid was diluted with ethyl acetate, washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resulting residue was purified on preparative thin layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), hexane/ethyl acetate=2/1) to provide 42 mg of the title compound as a colorless oily substance.

reactant | t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-(hydroxymethyl)phenyl)-ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate | 42 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=C(C=C1)CO)O)F | C24H33F2NO6
reactant | dimethylaminopyridine | 2 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.01 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.015 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | t-butyl 4-((2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-(4-((acetyloxy)methyl)phenyl)ethanoyloxy)tetrahydropyridine-1(2H)-carboxylate | 42 mg | FC1(C[C@@H](CC1)[C@](C(=O)OC1CCN(CC1)C(=O)OC(C)(C)C)(C1=CC=C(C=C1)COC(C)=O)O)F | C26H35F2NO7
